US06331640B1
Piperidine (88 pL, 0.89 mmol) was added to a solution of 3-[(9H-fluoren-9-ylmethoxy) carbonyl]amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine, methyl ester (116 mg, 0.18 mmol) in N,N-dimethylformamide (5 mL). The solution was stirred at room temperature for 30 min and then the solvent was evaporated. The resulting white solid was triturated with ether five times and dried in vacuo to give 3-amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine, methyl ester as an off-white solid (59 mg, 81%). N,N-Dimethylformamide (5 mL) was added, followed by HOAT (23 mg, 0.17 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (32 mg, 0.17 mmol), and thiophene-2-carboxylic acid (18 mg, 0.14 mmol). The reaction mixture was stirred at room temperature for 18 h. Water was added, and the mixture was extracted three times with ethyl acetate. The combined extracts were washed with brine, dried (Na2SO4), filtered, evaporated, and chromatographed (40-80% ethyl acetate/hexanes) to give 3-[(thiophene-2-carbonyl)amino)-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine, methyl ester (58 mg, 78%). A solution of lithium hydroxide monohydrate (13 mg, 0.32 mmol) in tetrahydrofuran/methanol/water (3:1:1) was added, and the solution was stirred at room temperature for 20 min. The solvent was evaporated and the residue was purified by HPLC to give 3-(thiophene-2-carbonyl)amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine (45 mg, 80% from ester, 48% for three steps) as a white powder.

reactant | Piperidine | 0.89 mmol | N1CCCCC1 | C5H11N
reactant | 3-[(9H-fluoren-9-ylmethoxy) carbonyl]amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine, methyl ester | 0.18 mmol, 116 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=C2C=CNC2=CC=C1)Cl)=O)C(=O)OC | C36H31ClN4O6
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-amino-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine, methyl ester | 59 mg, 81% | NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=C2C=CNC2=CC=C1)Cl)=O)C(=O)OC | C21H21ClN4O4
